US09227971B2
Step 2: Preparation of tert-butyl 3-{7-(bis{[2-(trimethylsilyl)ethoxy]methyl}amino)-3-[6-(1-hydroxy-1-methylethyl)pyridin-3-yl]pyrazolo[1,5-a]pyrimidin-5-yl}-8-azabicyclo[3.2.1]octane-8-carboxylate
Potassium acetate (1.383 g, 14.09 mmol), [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) (168 mg, 0.230 mmol), bis(pinacolato)diboron (1.40 g, 5.49 mmol), and 2-(5-bromopyridin-2-yl)propan-2-ol (1.099 g, 5.086 mmol) were combined in a microwave tube equipped with a stir bar. The headspace was exchanged for dry nitrogen (×3), and 1,4-dioxane (10 mL) was added. The vessel was lowered into a 90° C. oil bath, and stirred rapidly for 2.5 h. The mixture was cooled to room temperature and tert-butyl 3-[7-(bis{[2-(trimethylsilyl)ethoxy]methyl}amino)-3-iodopyrazolo[1,5-a]pyrimidin-5-yl]-8-azabicyclo[3.2.1]octane-8-carboxylate (1.774 g, 2.431 mmol) in 1,4-dioxane (6 mL, 80 mmol), and aqueous sodium carbonate (2.0 M, 3.3 mL, 6.6 mmol) were added. The organic layer became homogeneous, and the aq. becomes milky. The reaction was again lowered into the 90° C. bath, and stirred vigorously for 16 h, at which point HPLC shows the reaction to be complete. The mixture was cooled and partitioned between ethyl acetate (200 mL) and water (50 mL). The organics were washed with water (50 mL), brine (50 mL), dried with MgSO4, filtered through celite, and concentrated. The crude material was purified by flash chromatography (20-100% ethyl acetate in hexanes). The title compound (1.01 g) was isolated as a brown oil.

reactant | Potassium acetate | 14.09 mmol, 1.383 g | C(C)(=O)[O-].[K+]
reactant | bis(pinacolato)diboron | 5.49 mmol, 1.40 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | 2-(5-bromopyridin-2-yl)propan-2-ol | 5.086 mmol, 1.099 g | BrC=1C=CC(=NC1)C(C)(C)O | C8H10BrNO
reactant | tert-butyl 3-[7-(bis{[2-(trimethylsilyl)ethoxy]methyl}amino)-3-iodopyrazolo[1,5-a]pyrimidin-5-yl]-8-azabicyclo[3.2.1]octane-8-carboxylate | 2.431 mmol, 1.774 g | C[Si](CCOCN(C1=CC(=NC=2N1N=CC2I)C2CC1CCC(C2)N1C(=O)OC(C)(C)C)COCC[Si](C)(C)C)(C)C | C30H52IN5O4Si2
reactant | sodium carbonate | 6.6 mmol, 2.0 M, 3.3 mL | C([O-])([O-])=O.[Na+].[Na+]
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) | 0.230 mmol, 168 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
solvent | 1,4-dioxane | 80 mmol, 6 mL | O1CCOCC1 | C4H8O2
product | tert-butyl 3-{7-(bis{[2-(trimethylsilyl)ethoxy]methyl}amino)-3-[6-(1-hydroxy-1-methylethyl)pyridin-3-yl]pyrazolo[1,5-a]pyrimidin-5-yl}-8-azabicyclo[3.2.1]octane-8-carboxylate | 1.01 g | C[Si](CCOCN(C1=CC(=NC=2N1N=CC2C=2C=NC(=CC2)C(C)(C)O)C2CC1CCC(C2)N1C(=O)OC(C)(C)C)COCC[Si](C)(C)C)(C)C | C38H62N6O5Si2
